US04532257
(a) Z-3-[(2,3-Dihydro-5-methoxycarbonyl-3-oxo-2-benzofuranyl)methylene]benzoic acid
5-Methoxycarbonylbenzofuran-3-(2H)one (4.9 g) was dissolved in warm dioxan (50 ml). 3-Carboxybenzaldehyde (4.5 g) was then added followed by concentrated hydrochloric acid (10 ml). The mixture was heated on a steam bath for 15 minutes with formation of yellow crystals. After cooling and addition of an equal volume of water, the crystalline product was filtered off and recrystallised from dimethylformamide to give the title compound, m.p. 280° C.

reactant | 5-Methoxycarbonylbenzofuran-3-(2H)one | 4.9 g | COC(=O)C=1C=CC2=C(C(CO2)=O)C1 | C10H8O4
reactant | 3-Carboxybenzaldehyde | 4.5 g | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | O | H2O
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | Z-3-[(2,3-Dihydro-5-methoxycarbonyl-3-oxo-2-benzofuranyl)methylene]benzoic acid | COC(=O)C=1C=CC2=C(C(C(O2)\C=C/2\CC(C(=O)O)=CC=C2)=O)C1 | C18H14O6
